US06506747B1
Synthesis of (2-Chloro-6-fluorobenzyl)-[4-(5-cyano-3-pyridin-3-yl-pyrazol-1-yl)phenyl]amine
To a stirred solution of 1-(4-aminophenyl)-3-(3-pyridyl)-5-cyanopyrazole (130 mg, 0.5 mmol) in acetic acid (2 mL) and MeOH (6 mL) at room temperature was added 2-chloro-6-fluorobenzaldehyde (79 mg, 0.5 mmol), followed by sodium cyanoborohydride (79 mg, 1.25 mmol). The reaction mixture was stirred at room temperature for 16 h and then concentrated under a stream of nitrogen. The residue was diluted with water, extracted into ethyl acetate, washed with sodium bicarbonate solution and water, and dried (MgSO4). The residue obtained on concentration was flash chromatographed on silica gel (eluent, gradient of 20-30% EtOAc in CH2Cl2) to provide the title compound (103 mg, 51%). NMR (CDCl3, 400 MHz): 9.1 (s, 1H); 8.7 (br, 1H); 8.3 (d, 1H); 7.6-7.5 (overlapping m, 3H), 7.6-7.5 (overlapping m, 4H), 7.05 (m, 1H); 6.9 (d, 2H), 4.6 (s, 2H).

reactant | 1-(4-aminophenyl)-3-(3-pyridyl)-5-cyanopyrazole | 0.5 mmol, 130 mg | NC1=CC=C(C=C1)N1N=C(C=C1C#N)C=1C=NC=CC1 | C15H11N5
reactant | 2-chloro-6-fluorobenzaldehyde | 0.5 mmol, 79 mg | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | sodium cyanoborohydride | 1.25 mmol, 79 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 6 mL | CO | CH4O
product | (2-Chloro-6-fluorobenzyl)-[4-(5-cyano-3-pyridin-3-yl-pyrazol-1-yl)phenyl]amine | 103 mg, 51% | ClC1=C(CNC2=CC=C(C=C2)N2N=C(C=C2C#N)C=2C=NC=CC2)C(=CC=C1)F | C22H15ClFN5
